US04509972
1.5 g (0.0069 mol) of 2-amino-4-methoxypteridine and two drops of triethylamine were added to a mixture of 1.77 g (0.01 mol) of 2-chlorophenylsulfonyl isocyanate in 20 ml of acetonitrile and the mixture was refluxed for 30 minutes, cooled and mixed with diisopropyl ether. After standing for 10 minutes, the mixture was vacuum filtered to obtain 2.25 g (87% of theory) of N-(4-methoxypteridin-2-yl)-N'-(2-chlorophenylsulfonyl)-urea melting at 212° C.

reactant | 2-amino-4-methoxypteridine | 0.0069 mol, 1.5 g | NC1=NC2=NC=CN=C2C(=N1)OC | C7H7N5O
reactant | 2-chlorophenylsulfonyl isocyanate | 0.01 mol, 1.77 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | triethylamine | two drops | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(4-methoxypteridin-2-yl)-N'-(2-chlorophenylsulfonyl)-urea | 2.25 g, 87% | COC1=NC(=NC2=NC=CN=C12)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl | C14H11ClN6O4S
